US04906634
2-Diethylamino-N-[4-[(methylsulfonyl)amino]phenyl]-acetamide
To 100 mL of acetic acid under a nitrogen atmosphere add 12.9 g (69 mmol) of N-(4-aminophenyl)methanesulfonamide and 9.4 g (83 mmol) of chloroacetyl chloride. Stir the reaction mixture at ambient temperature. Monitor the progress of the reaction by thin-layer chromatography on silica gel (CH2Cl2MeOH, 19:1). Upon completion of the reaction, add 300 mL of H2O and suction filter the resulting solid. To 50 mL of EtOH is added 7.0 g (27 mmol) of the solid, 9.9 g (0.14 mol) of diethylamine, and 1 g of NaI. Stir the reaction mixture at ambient temperature. Monitor the progress of the reaction by thin-layer chromatography on silica gel (CHCl3 :MeOH, 9:1). Upon completion of the reaction remove the solvent in vacuo. To the resulting oil add 50 mL of H2O and 100 mL EtOAc. Separate the layers and dry the organic layer over anhydrous Na2SO4. Remove the drying agent by filtration and remove the solvent in vacuo. Chromatograph the resulting oil on 50 g of silica gel with CH2Cl2 :MeOH, 19:1. Combine the product fractions and remove the solvent in vacuo. Dissolve the residue in methanolic HCl and remove the solvent. Triturate the solid with EtOAc to afford the title compound.

reactant | N-(4-aminophenyl)methanesulfonamide | 69 mmol, 12.9 g | NC1=CC=C(C=C1)NS(=O)(=O)C | C7H10N2O2S
reactant | chloroacetyl chloride | 83 mmol, 9.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | diethylamine | 0.14 mol, 9.9 g | C(C)NCC | C4H11N
reactant | NaI | 1 g | [Na+].[I-]
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | H2O | 300 mL | O | H2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-Diethylamino-N-[4-[(methylsulfonyl)amino]phenyl]-acetamide | C(C)N(CC(=O)NC1=CC=C(C=C1)NS(=O)(=O)C)CC | C13H21N3O3S
